US07208633B2
bis(4-fluorophenyl)phosphine oxide
Under an argon atmosphere, a solution of magnesium (6.95 g, 1.0 equivalent) and a small amount of iodine in THF (70 mL) was stirred at room temperature for 1 hr. 1-Bromo-4-fluorobenzene (50 g, 0.286 moL) was added at 40° C., and the mixture was stirred at 3° C. for 1 hr. Then, diethyl phosphite (19.7 g, 0.50 equivalents) was added at 13 to 19° C., and the mixture was stirred at 5° C. for 1 hr. Water (45 mL) was added at 4° C., and toluene (150 mL) and 6M-HCl (45 mL) were added. The mixture was stirred at room temperature for 30 min. The reaction mixture was partitioned, and the organic layer was washed successively with water, 5% aqueous NaHCO3 solution (50 mL), and 5% aqueous NaCl solution (50 mL). The organic layer was dried over anhydrous magnesium sulfate, filtered by gravity, and the filtrate was concentrated under reduced pressure. The residue was purified by column chromatography (silica gel 30 g, n-hexane/ethyl acetate=1/0→3/1) to give the title compound (12.0 g, pale-red oil). yield 35.2%.

reactant | magnesium | 6.95 g, 1.0 equivalent | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1-Bromo-4-fluorobenzene | 50 g | BrC1=CC=C(C=C1)F | C6H4BrF
reactant | diethyl phosphite | 19.7 g, 0.50 equivalents | P(OCC)(OCC)[O-]
reactant | HCl | 45 mL | Cl | ClH
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
solvent | Water | 45 mL | O | H2O
product | bis(4-fluorophenyl)phosphine oxide | 12.0 g, yield 35.2% | FC1=CC=C(C=C1)P(C1=CC=C(C=C1)F)=O | C12H9F2OP
